* extracted by klt extract --deck gf180mcu

* cell COMPARATOR_NORES
* pin clk
* pin dout
* pin doutb
* pin ibias
* pin vdd
* pin vss
* pin vsubs
.SUBCKT COMPARATOR_NORES clk dout doutb ibias vdd vss vsubs
* device instance $1 r0 *1 62.725,0.5 nfet
M$1 \$19 \$6 vss vsubs nfet L=0.35U W=1U AS=1.1P AD=1.1P PS=4.2U PD=4.2U
* device instance $2 r0 *1 72.825,0.5 nfet
M$2 \$14 \$13 vss vsubs nfet L=0.35U W=1U AS=1.1P AD=1.1P PS=4.2U PD=4.2U
* device instance $3 r0 *1 82.925,2 nfet
M$3 dout \$14 vss vsubs nfet L=0.35U W=4U AS=4.4P AD=4.4P PS=10.2U PD=10.2U
* device instance $4 r0 *1 86.375,2 nfet
M$4 dout doutb vss vsubs nfet L=0.35U W=4U AS=4.4P AD=4.4P PS=10.2U PD=10.2U
* device instance $5 r0 *1 99.925,2 nfet
M$5 doutb \$19 vss vsubs nfet L=0.35U W=4U AS=4.4P AD=4.4P PS=10.2U PD=10.2U
* device instance $6 r0 *1 103.375,2 nfet
M$6 doutb dout vss vsubs nfet L=0.35U W=4U AS=4.4P AD=4.4P PS=10.2U PD=10.2U
* device instance $7 r0 *1 31.925,3 nfet
M$7 \$6 \$13 \$2 vsubs nfet L=0.35U W=6U AS=6.6P AD=6.6P PS=14.2U PD=14.2U
* device instance $8 r0 *1 35.375,3 nfet
M$8 \$13 \$6 \$12 vsubs nfet L=0.35U W=6U AS=6.6P AD=6.6P PS=14.2U PD=14.2U
* device instance $9 r0 *1 24.8,4 nfet
M$9 \$2 \$5 \$11 vsubs nfet L=0.5U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $10 r0 *1 28.4,4 nfet
M$10 \$12 \$10 \$11 vsubs nfet L=0.5U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $11 r0 *1 21.275,8 nfet
M$11 \$11 clk vss vsubs nfet L=0.35U W=16U AS=17.6P AD=17.6P PS=34.2U PD=34.2U
* device instance $12 r0 *1 2.1,10 nfet
M$12 ibias ibias vss vsubs nfet L=2U W=20U AS=22P AD=22P PS=42.2U PD=42.2U
* device instance $13 r0 *1 15.4,10 nfet
M$13 \$8 ibias vss vsubs nfet L=2U W=20U AS=22P AD=22P PS=42.2U PD=42.2U
* device instance $14 r0 *1 6.7,20 nfet
M$14 \$10 \$9 \$8 vsubs nfet L=1U W=40U AS=44P AD=44P PS=82.2U PD=82.2U
* device instance $15 r0 *1 10.8,20 nfet
M$15 \$5 \$4 \$8 vsubs nfet L=1U W=40U AS=44P AD=44P PS=82.2U PD=82.2U
* device instance $16 r0 *1 54.225,1 pfet
M$16 \$2 clk vdd \$21 pfet L=0.35U W=2U AS=2.2P AD=2.2P PS=6.2U PD=6.2U
* device instance $17 r0 *1 57.675,1 pfet
M$17 \$12 clk vdd \$21 pfet L=0.35U W=2U AS=2.2P AD=2.2P PS=6.2U PD=6.2U
* device instance $18 r0 *1 67.775,1 pfet
M$18 \$19 \$6 vdd \$22 pfet L=0.35U W=2U AS=2.2P AD=2.2P PS=6.2U PD=6.2U
* device instance $19 r0 *1 77.875,1 pfet
M$19 \$14 \$13 vdd \$23 pfet L=0.35U W=2U AS=2.2P AD=2.2P PS=6.2U PD=6.2U
* device instance $20 r0 *1 47.325,2 pfet
M$20 \$6 clk vdd \$21 pfet L=0.35U W=4U AS=4.4P AD=4.4P PS=10.2U PD=10.2U
* device instance $21 r0 *1 50.775,2 pfet
M$21 \$13 clk vdd \$21 pfet L=0.35U W=4U AS=4.4P AD=4.4P PS=10.2U PD=10.2U
* device instance $22 r0 *1 40.425,4 pfet
M$22 \$6 \$13 vdd \$21 pfet L=0.35U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $23 r0 *1 43.875,4 pfet
M$23 \$13 \$6 vdd \$21 pfet L=0.35U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $24 r0 *1 91.425,4 pfet
M$24 \$3 \$14 vdd \$24 pfet L=0.35U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $25 r0 *1 94.875,4 pfet
M$25 dout doutb \$3 \$24 pfet L=0.35U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $26 r0 *1 108.425,4 pfet
M$26 \$20 \$19 vdd \$25 pfet L=0.35U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
* device instance $27 r0 *1 111.875,4 pfet
M$27 doutb dout \$20 \$25 pfet L=0.35U W=8U AS=8.8P AD=8.8P PS=18.2U PD=18.2U
.ENDS COMPARATOR_NORES
